US07968720B2
[2-(4-Chloro-3-formyl-phenyl)ethyl]-(2,2-difluoro-ethyl)carbamic Acid tert-butyl Ester
MnO2 (6.35 g, 65.7 mmol) was added to a sol. of [2-(4-chloro-3-hydroxymethyl-phenyl)-ethyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester (4.60 g, 13.2 mmol) in CH3CN (133 mL). The mixture was stirred at rt for 4 h. The mixture was filtered over celite, and the precipitate was washed with CH3CN and CH2Cl2. The filtrate was evaporated under reduced pressure to yield to crude title compound (4.30 g, 94%) that was used further without purification. LC-MS: tR=1.06 min.

reactant | [2-(4-chloro-3-hydroxymethyl-phenyl)-ethyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester | 13.2 mmol, 4.60 g | C(C)(C)(C)OC(N(CC(F)F)CCC1=CC(=C(C=C1)Cl)CO)=O | C16H22ClF2NO3
solvent | CH3CN | 133 mL | CC#N | C2H3N
catalyst | MnO2 | 65.7 mmol, 6.35 g | O=[Mn]=O
product | [2-(4-Chloro-3-formyl-phenyl)ethyl]-(2,2-difluoro-ethyl)carbamic Acid tert-butyl Ester | 4.30 g, 94% | C(C)(C)(C)OC(N(CC(F)F)CCC1=CC(=C(C=C1)Cl)C=O)=O | C16H20ClF2NO3
